US06921740B1
Synthesis of N-(2-hydroxyphenyl)-4-chlorobenzenesulfonamide
A flask with a stirrer was charged with 5.46 g of 2-aminophenol, 5.05 g of triethylamine and 100 ml of tetrahydrofuran, and a solution of 10.55 g of 4-chlorobenzenesulfonyl chloride in 20 ml of tetrahydrofuran was dropwise added with cooling with ice over 10 minutes. After completion of the addition, the reaction mixture was stirred at room temperature for 2 hours and then poured into 500 ml of ice water. A precipitated crystal was recovered by filtration and washed with water. The obtained crystal was recrystallized from ethanol/n-hexane mixed solvents, to give 8.9 g of an end product. Melting point 82° C.

reactant | 2-aminophenol | 5.46 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 10.55 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(2-hydroxyphenyl)-4-chlorobenzenesulfonamide | 8.9 g | OC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C12H10ClNO3S
